US09023849B2
1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile
1.360 g (3.35 mmol) of 1-(2,3-difluorobenzyl)-3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine and 330 mg (3.68 mmol) of copper(I) cyanide were initially charged in 10 ml of absolute DMSO and the mixture was heated at 150° C. for 2 h. After cooling, the mixture was added to 200 ml of ethyl acetate and washed with a mixture of concentrated aqueous ammonia solution and semisaturated aqueous ammonium chloride solution (v/v=1:3). The organic phase was washed with saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated on a rotary evaporator. 1.040 g (purity 92%, 100% of theory) of the target compound were obtained.

reactant | 1-(2,3-difluorobenzyl)-3-iodo-6-methyl-1H-pyrazolo[3,4-d]pyrimidine | 3.35 mmol, 1.360 g | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)I)C=CC=C1F | C13H9F2IN4
reactant | copper(I) cyanide | 3.68 mmol, 330 mg | [Cu]C#N
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C#N)C=CC=C1F | C14H9F2N5
